US08022205B2
Using 4-chloropicolinic acid chloride and N-ethylpiperazine instead of N-Boc-piperazine, amidation was carried out in the same manner as Step A in Example 1-D-199, to obtain (4-chloro-pyridin-2-yl)-(4-ethyl-piperazin-1-yl)-methanone. Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (232 mg, 0.430 mmol), and the obtained (4-chloro-pyridin-2-yl)-(4-ethyl-piperazin-1-yl)-methanone (120 mg, 0.473 mmol) instead of 4-chloropicolinic acid t-butylamide, amination was carried out in the same manner as Example 1-D-07, to obtain a crude product of [4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-pyridin-2-yl]-(4-ethyl-piperazin-1-yl)-methanone as a yellow solid (225 mg), and then the PMB groups were removed according to the above Deprotection method 2, to obtain the desired compound (D-201) as a yellow powder (85 mg, 57%).

reactant | 4-chloropicolinic acid chloride | ClC1=CC(=NC=C1)C(=O)Cl | C6H3Cl2NO
reactant | N-ethylpiperazine | C(C)N1CCNCC1 | C6H14N2
product | (4-chloro-pyridin-2-yl)-(4-ethyl-piperazin-1-yl)-methanone | ClC1=CC(=NC=C1)C(=O)N1CCN(CC1)CC | C12H16ClN3O
